US05286728
Analogously to Example 55, 1.5 g of 4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl chloride are reacted with 0.88 g of [2-(4-methoxyphenyl)ethyl]piperazine, yielding 1-{4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl}-4-[2-(4-methoxyphenyl)ethyl]piperazine. The hydrochloride thereof melts at 139°-140°.

reactant | 4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl chloride | 1.5 g | C(C)(C)OCCN(C(CCl)=O)C1=CC=C(C(=O)Cl)C=C1 | C14H17Cl2NO3
reactant | [2-(4-methoxyphenyl)ethyl]piperazine | 0.88 g | COC1=CC=C(C=C1)CCN1CCNCC1 | C13H20N2O
product | 1-{4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl}-4-[2-(4-methoxyphenyl)ethyl]piperazine | C(C)(C)OCCN(C(CCl)=O)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)OC)C=C1 | C27H36ClN3O4
